US06552068B1
Sodium hydride (60%, 5.78 g, 144.59 mmol) was added to anhydrous tetrahydrofuran (250 ml) and cooled to 0° C. To this mixture, diethyl malonate (25.09 g, 156.64 mmol) was slowly added dropwise, followed by stirring for 1 hour at room temperature. 7-Iodo-1-heptene (27 g, 120.49 mmol) dissolved in anhydrous tetrahydrofuran (50 ml) was then slowly added dropwise to the mixture, followed by stirring for 12 hours at room temperature. Water was added to the reaction mixture, which was then extracted twice with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/40) to give diethyl 2-(6-heptenyl)malonate (25.8 g, Yield 84%).

reactant | Sodium hydride | 144.59 mmol, 5.78 g | [H-].[Na+]
reactant | diethyl malonate | 156.64 mmol, 25.09 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 7-Iodo-1-heptene | 120.49 mmol, 27 g | ICCCCCC=C | C7H13I
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | diethyl 2-(6-heptenyl)malonate | 25.8 g, Yield 84% | C(CCCCC=C)C(C(=O)OCC)C(=O)OCC | C14H24O4
